US05723450
4-(4-Oxocyclohexylamino)-3-methoxy-2-methylpyridine hydrochloride
27.3 g of 4-(1,4-dioxaspiro[4.5]dec-8-ylamino)-3-methoxy-2-methylpyridine hydrochloride are stirred with 400 ml of formic acid for 4 hours. The residue which remains after concentrating in vacuo is dissolved in methylene chloride and shaken with 2N NaOH. The methylene chloride phase is concentrated, the residue is dissolved in ether and the hydrochloride is precipitated by addition of ethereal HCl. 14 g=90%; m.p.: 115° to 120° C.

reactant | 4-(1,4-dioxaspiro[4.5]dec-8-ylamino)-3-methoxy-2-methylpyridine hydrochloride | 27.3 g | Cl.O1CCOC12CCC(CC2)NC2=C(C(=NC=C2)C)OC
solvent | formic acid | 400 ml | C(=O)O | CH2O2
product | 4-(4-Oxocyclohexylamino)-3-methoxy-2-methylpyridine hydrochloride | Cl.O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | InChI=1S/C13H18N2O2.ClH/c1-9-13(17-2)12(7-8-14-9)15-10-3-5-11(16)6-4-10;/h7-8,10H,3-6H2,1-2H3,(H,14,15);1H
